US07547710B2
To a suspension of sodium hydride (60% in oil, 120 mg, 3 mmol) in dimethyl sulfoxide (10 ml) was added trimethylsulfoxonium bromide (605 mg, 3.5 mmol), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added ethyl (2E)-3-[3-{[(tert-butoxycarbonyl)amino]methyl}-4-(4-methylphenyl)-2-propylquinolin-6-yl]acrylate (0.73 g, 1.5 mmol) and the mixture was stirred at room temperature for 1 hr. Saturated aqueous ammonium chloride solution was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from diisopropyl ether to give ethyl 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-4-(4-methylphenyl)-2-propylquinolin-6-yl]cyclopropane-1-carboxylate (0.61 g, yield 81%) as white crystals.

reactant | sodium hydride | 3 mmol, 120 mg | [H-].[Na+]
reactant | trimethylsulfoxonium bromide | 3.5 mmol, 605 mg | [Br-].C[S+](=O)(C)C
reactant | ethyl (2E)-3-[3-{[(tert-butoxycarbonyl)amino]methyl}-4-(4-methylphenyl)-2-propylquinolin-6-yl]acrylate | 1.5 mmol, 0.73 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)/C=C/C(=O)OCC)CCC | C30H36N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | ethyl 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-4-(4-methylphenyl)-2-propylquinolin-6-yl]cyclopropane-1-carboxylate | 0.61 g, yield 81% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C1C(C1)C(=O)OCC)CCC | C31H38N2O4
